US04962103
(2R,4S)-1-(p-Nitrobenzyloxycarbonyl)-2-dimethylaminocarbonylmethyl-4-acetylthiopyrrolidine (100 mg) was dissolved in 3 ml of methanol, and 0.24 ml of 1N sodium hydroxide solution was added thereto under nitrogen stream at room temperature, followed by stirring at the same temperature for 15 minutes. 1N Hydrochloric acid (0.24 ml) was added thereto, followed by concentration under reduced pressure. The concentrate was diluted with methylene chloride, washed with water, dried over anhydrous sodium sulfate and distilled to remove the solvent to obtain (2R,4S)-1-(p-nitrobenzyloxycarbonyl)-2-dimethylaminocarbonylmethyl-4-mercaptopyrrolidine.

reactant | (2R,4S)-1-(p-Nitrobenzyloxycarbonyl)-2-dimethylaminocarbonylmethyl-4-acetylthiopyrrolidine | 100 mg | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H](C[C@@H](C2)SC(C)=O)CC(=O)N(C)C)C=C1 | C18H23N3O6S
reactant | sodium hydroxide | 1N, 0.24 ml | [OH-].[Na+]
reactant | Hydrochloric acid | 1N, 0.24 ml | Cl | ClH
solvent | methanol | 3 ml | CO | CH4O
product | (2R,4S)-1-(p-nitrobenzyloxycarbonyl)-2-dimethylaminocarbonylmethyl-4-mercaptopyrrolidine | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H](C[C@@H](C2)S)CC(=O)N(C)C)C=C1 | C16H21N3O5S
